US08466199B2
The reaction of Ethyl 3-hydroxyl-benzoate and 3-Bromo-2-methyl-propene in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 3-(2-Methyl-allyloxy)-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 7.50 (m, 1 arom. H); 7.44 (m, 2 arom. H); 7.19 (m, 1 arom. H); 5.04, 4.96 (2 s, —C(CH3)═CH2); 4.50 (s, CH2—C(CH3)═CH2); 1.75 (s, C(CH3)═CH2). 13C-NMR (100 MHz, d6-DMSO): 166.93 (—C═O); 158.23; 140.62; 132.14; 129.67; 121.67; 119.53; 114.88; 112.33; 70.95; 19.13.

reactant | Ethyl 3-hydroxyl-benzoate | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | 3-Bromo-2-methyl-propene | BrCC(=C)C | C4H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 3-(2-Methyl-allyloxy)-benzoic acid | CC(COC=1C=C(C(=O)O)C=CC1)=C | C11H12O3
